US04948882
5-(2-Carbmethoxyethenyl)-2'-deoxycytidine (0.82 g, 2.6 mmol) is stirred in 50 ml anhydrous ethanol. Benzoic anhydride (500 mg, 2.2 mmol) is added, and the reaction heated to reflux. Five additional 500 mg portions of benzoic anhydride are added hourly. After the reaction is judged complete by thin layer chromatography (usually 6-8 hours) the reaction is cooled, and evaporated under reduced pressure to a yellow semi-solid. Chromatography on silica gel eluting a linear 1:19 to 1:3 methanol/chloroform mixture followed by thorough evaporation of appropriately combined fractions gives N4 -benzoyl-5-(2-carbmethoxyethenyl)-2'-deoxycytidine as an amorphous white solid. UV λmax 296 nm, λmin 270 nm. The solid is dried thoroughly, and dissolved in 20 ml pyridine. Dimethoxytrityl chloride (1.1 eq) is added, and the reaction stirred at ambient temperature for six hours. Concentration to a solid followed by column chromatography on silica gel eluting 10% methanol in chloroform yields

reactant | 5-(2-Carbmethoxyethenyl)-2'-deoxycytidine | 2.6 mmol, 0.82 g | C(=O)(OC)C=CC=1C(=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)N | C13H17N3O6
reactant | Benzoic anhydride | 2.2 mmol, 500 mg | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N4 -benzoyl-5-(2-carbmethoxyethenyl)-2'-deoxycytidine | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1C=CC(=O)OC)=O | C20H21N3O7
